US07858643B2
3-[(R)-1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-5-(1H-pyrazol-4-yl)-pyrazin-2-ylamine
The title compound was prepared according to procedure 3 using 5-bromo-3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-ylamine and 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester. 1H NMR (400 MHz, DMSO-d6) δ 12.81 (s, 1H), 7.79 (s, 1H), 7.48 (m, 1H), 7.36 (t, 1H), 6.48 (q, 1H), 6.12 (s, 2H), 1.75 (d, 3H); LCMS: 368 [M+1]; c-Met Ki: 0.065 μM.

reactant | 5-bromo-3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-ylamine | BrC=1N=C(C(=NC1)N)O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl | C12H9BrCl2FN3O
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
product | 3-[(R)-1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-5-(1H-pyrazol-4-yl)-pyrazin-2-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(N1)C=1C=NNC1)N | C15H12Cl2FN5O
